US06335437B1
Preparation of 2′-O-phthalimidoethyl-5-methyluridine (13)
N-(2-Hydroxyethyl)phthalimide (277 g, 1.45 mol) was slowly added to a solution of borane in tetrahydrofuran (1 M, 600 mL) with stirring. Hydrogen gas evolved as the solid dissolved. Once the rate of bubbling subsided, the solution was placed in a 2 L stainless steel bomb. 2,2′-anhydro-5-methyluridine (60 g, 0.25 mol) and sodium bicarbonate (120 mg) were added and the bomb was sealed. After 30 minutes, the bomb was vented for the last time and then placed in an oil bath and heated to 150° C. internal temperature for 24 hours. The bomb was cooled to room temperature and opened. TLC revealed all the starting material was gone. The crude solution was concentrated and the residue was columned on silica gel starting with straight ethyl acetate to remove the excess phthalimide reagent followed by ethyl acetate-methanol 95/5 to elute the product to give 22.2 g (20.6%) of ca 90% pure product.

reactant | N-(2-Hydroxyethyl)phthalimide | 1.45 mol, 277 g | OCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H9NO3
reactant | borane | B | BH3
reactant | Hydrogen | [H][H] | H2
reactant | 2,2′-anhydro-5-methyluridine | 0.25 mol, 60 g | CC1=CN2[C@H]3[C@H]([C@@H]([C@H](O3)CO)O)OC2=NC1=O | C10H12N2O5
reactant | sodium bicarbonate | 120 mg | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 1 M, 600 mL | O1CCCC1 | C4H8O
product | 2′-O-phthalimidoethyl-5-methyluridine | ca 90% | C1(C=2C(C(N1CCO[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C(=C1)C)=O)=CC=CC2)=O | C20H21N3O8
